US08097628B2
To a solution of NaH (50.5 g, 57-63% dispersion in mineral oil, 1.26 mol) in THF (8.5 L) was added ethyl N-[2-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)amino]-6-(methyloxy)-3-pyridinyl]glycinate (577.8 g, 1.147 mol) at −5° C. When the addition was complete the mixture was warmed to room temperature and stirred for 30 min. The reaction was quenched by the addition of saturated aqueous NH4Cl (610 ml) and the mixture was stirred for 10 min. Na2SO4 (1 kg) was added and the mixture was stirred for 10 min before being filtered through celite. The filter cake was washed with EtOAc (5 L). The filtrate was evaporated and the dark purple oil was purification by column chromatography and mixtures of heptane and EtOAc as eluent to give 477 g (91%) of 4-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one as a viscous purple oil.

reactant | NaH | 1.26 mol, 50.5 g | [H-].[Na+]
reactant | ethyl N-[2-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)amino]-6-(methyloxy)-3-pyridinyl]glycinate | 1.147 mol, 577.8 g | CC(C)(C)[Si](OC[C@H](COCC1=CC=CC=C1)NC1=NC(=CC=C1NCC(=O)OCC)OC)(C)C | C26H41N3O5Si
solvent | THF | 8.5 L | C1CCOC1 | C4H8O
product | 4-((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]methyl}ethyl)-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one | 477 g, 91% | CC(C)(C)[Si](OC[C@H](COCC1=CC=CC=C1)N1C2=C(NCC1=O)C=CC(=N2)OC)(C)C | C24H35N3O4Si
